US04584290
A mixture of 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-[2-(2-pyridyl)thiovinyl]-3-cephem-4-carboxylic acid (syn isomer) (trans isomer) (1.5 g), dimetylformamide (15 ml) and methyliodide (1.5 ml) was shaked for six days at ambient temperature in a stainless-steel bomb. The reaction mixture was poured into ethyl acetate. The resultant, precipitate was collected by filtration and washed with ethyl acetate and dr d to give 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-[2-(1-methyl-2-pyridinio)thiovinyl]-3-cephem-4-carboxylate hydriodide (syn isomer) (trans isomer) (2.0 g).

reactant | 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-[2-(2-pyridyl)thiovinyl]-3-cephem-4-carboxylic acid | 1.5 g | C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CSC2=NC=CC=C2)C(=O)O)C1=O)C1=NSC(=N1)N | C20H19N7O5S3
reactant | dimetylformamide | 15 ml | CN(C=O)C | C3H7NO
reactant | methyliodide | 1.5 ml | CI | CH3I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-[2-(1-methyl-2-pyridinio)thiovinyl]-3-cephem-4-carboxylate hydriodide | 2.0 g | I.C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CS[CH2+]2N(C=CC=C2)C)C(=O)[O-])C1=O)C1=NSC(=N1)N | InChI=1S/C21H24N7O5S3.HI/c1-3-33-25-13(16-24-21(22)36-26-16)17(29)23-14-18(30)28-15(20(31)32)11(10-35-19(14)28)7-9-34-12-6-4-5-8-27(12)2;/h4-9,14,19H,3,10,12H2,1-2H3,(H,23,29)(H,31,32)(H2,22,24,26);1H/q+1;/p-1/t14?,19-;/m1./s1
